US06531491B1
Synthesis of 2-{1-[3-((E)-2-Pyridin-2-yl-vinyl)-1H-indazol-6-yl]-methanoyl}-benzoic acid.
A solution of 2-{1-[3-((E)-2-Pyridin-2-yl-vinyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-yl]-methanoyl}-benzoic acid (402 mg, 0.805 mmol) (synthesis described below), ethylene diamine (215 μL, 3.22 mmol), and 1M TBAF in THF (6.44 ml, 6.44 mmol), was stirred in a 90° C. oil bath for 4 hr. The crude reaction mixture was quenched with acetic acid (386 μL, 6.44 mmol), diluted with ethyl acetate (100 mL), extracted 1M sodium bicarbonate solution (2×20 ml), brine (5×20 ml), dried magnesium sulfate, filtered, and concentrated to a 3 mL volume. The resulting crude material was purified by preparative C18 reverse phase column chromatography, giving 211 mg of the title compound as a yellow solid (71% yield). 1H NMR (DMSO-d6) δ 13.50 (bs, 1H), 8.68 (d, J=5.27 Hz, 1H), 8.29 (d, J=8.86 Hz, 1H), 8.13-7.90 (m, 4H), 7.81-7.43 (m, 7H).

reactant | 2-{1-[3-((E)-2-Pyridin-2-yl-vinyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-yl]-methanoyl}-benzoic acid | 0.805 mmol, 402 mg | N1=C(C=CC=C1)/C=C/C1=NN(C2=CC(=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1)COCC[Si](C)(C)C | C28H29N3O4Si
reactant | ethylene diamine | 3.22 mmol, 215 μL | C(CN)N | C2H8N2
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 6.44 mmol, 6.44 ml | C1CCOC1 | C4H8O
reactant | acetic acid | 6.44 mmol, 386 μL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-{1-[3-((E)-2-Pyridin-2-yl-vinyl)-1H-indazol-6-yl]-methanoyl}-benzoic acid | 211 mg, 71% yield | N1=C(C=CC=C1)/C=C/C1=NNC2=CC(=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1 | C22H15N3O3
